US04874775
N-(4-chlorophenyl)-N-(pyridin-3-ylmethyl)isopropanesulfonamide
A 3.3 g. portion of 3-(4-chlorophenylaminomethyl)pyridine was dissolved in chloroform and reacted with 2.4 g. of isopropanesulfonyl chloride in the presence of 2.3 g. of potassium carbonate for several days at ambient temperature. The reaction mixture was worked up as described in Example 4, and the oily product was dissolved in chloroform and purified over silica gel, eluting with chloroform, to obtain 0.6 g. of the desired product, the elemental analysis which was as follows.

reactant | 3-(4-chlorophenylaminomethyl)pyridine | ClC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11ClN2
reactant | isopropanesulfonyl chloride | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-chlorophenyl)-N-(pyridin-3-ylmethyl)isopropanesulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)C(C)C)CC=1C=NC=CC1 | C15H17ClN2O2S
